US08802850B2
tert-Butyl-(R)-1-(3-oxa-2-aza-bicyclo[2.2.1]hept-5-en-2-yl)-1-oxopropan-2-ylcarbamate
At about −78° C. and under an atmosphere of nitrogen, oxalyl dichloride (30.43 g, 239.74 mmol, 4.00 equiv.) was added dropwise, over a period of 20 minutes, to stirred solution of dimethylsulfoxide (28.1 g, 359.66 mmol, 6.00 equiv.) in dichloromethane (200 mL). To this mixture was added dropwise, over a period of about 10 minutes, a solution of (R)-tert-butyl 1-(hydroxyamino)-1-oxopropan-2-ylcarbamate (12.24 g, 59.94 mmol, 1.00 equiv.) and cyclopenta-1,3-diene (4.15 g, 62.78 mmol, 1.05 equiv.) in a mixture of dichloromethane/dimethylsulfoxide (5:1) (60 mL). The resulting mixture was stirred for at about −78° C. for about 30 minutes, and then triethylamine (66.8 mL) was added. The resulting mixture was washed with 1M hydrochloric acid (2×200 mL), and extracted with dichloromethane (3×100 mL). After the organic layers were combined, the organic phase was washed with 10% sodium bicarbonate (2×200 mL), dried over anhydrous sodium sulfate, and concentrated in vacuo. The resulting residue was purified by silica gel column chromatography (ethyl acetate/petroleum ether (1:10)) to give the desired product as a white solid (8.6 g; yield=53%). 1H NMR (300 MHz, CDCl3) δ: 6.54 (s, 1H), 6.39 (m, 1H), 5.22-5.34 (m, 3H), 4.51 (m, 1H), 2.02 (d, J=8.4 Hz, 1H), 1.86 (d, J=8.7 Hz, 1H), 1.43 (s, 9H), 1.09 (m, 3H).

reactant | oxalyl dichloride | 239.74 mmol, 30.43 g, 4.00 equiv. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 359.66 mmol, 28.1 g, 6.00 equiv. | CS(=O)C | C2H6OS
reactant | (R)-tert-butyl 1-(hydroxyamino)-1-oxopropan-2-ylcarbamate | 59.94 mmol, 12.24 g, 1.00 equiv. | ONC([C@@H](C)NC(OC(C)(C)C)=O)=O | C8H16N2O4
reactant | cyclopenta-1,3-diene | 62.78 mmol, 4.15 g, 1.05 equiv. | C1=CC=CC1 | C5H6
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane dimethylsulfoxide | 60 mL | ClCCl.CS(=O)C
solvent | triethylamine | 66.8 mL | C(C)N(CC)CC | C6H15N
product | tert-Butyl-(R)-1-(3-oxa-2-aza-bicyclo[2.2.1]hept-5-en-2-yl)-1-oxopropan-2-ylcarbamate | 8.6 g, yield=53% | C(C)(C)(C)OC(N[C@@H](C(=O)N1C2C=CC(O1)C2)C)=O | C13H20N2O4
